US06872706B2
To a solution of 2-(4-methoxybenzyl)phenyl β-D-glucopyranoside (0.10 g) in 2,4,6-trimethylpyridine (2 mL) was added hexanoyl chloride (0.072 g) at 0° C., and the mixture was stirred for 3 hours. To the reaction mixture was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with 10% aqueous citric acid solution and brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give 2-(4-methoxybenzyl)phenyl 6-O-hexanoyl-β-D-glucopyranoside (0.030 g).

reactant | 2-(4-methoxybenzyl)phenyl β-D-glucopyranoside | 0.10 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)OC | C20H24O7
reactant | hexanoyl chloride | 0.072 g | C(CCCCC)(=O)Cl | C6H11ClO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 2,4,6-trimethylpyridine | 2 mL | CC1=NC(=CC(=C1)C)C | C8H11N
product | 2-(4-methoxybenzyl)phenyl 6-O-hexanoyl-β-D-glucopyranoside | 0.030 g | C(CCCCC)(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)OC)O1)O)O)O | C26H34O8
